US04254122
n-Butylamine (3.92 ml.) was added during 15 minutes to stirred acetic acid (2.4 ml.). After 30 minutes at room temperature, 3-(3-trifluoromethylphenyl)-6-methylthio-tetrahydro-1,3,5-triazine-2,4-dione (6.1 g.) was added to the acetic acid solution. The mixture obtained was then heated at 145° C., for 4 hours. (The liberated methylmercaptan was absorbed into a trap containing an excess of aqueous sodium hydroxide and sodium hypochlorite.) The reaction mixture was cooled to room temperature and then water (75 ml.) was added. The mixture was then stirred for 15 minutes and the white solid which formed was separated by filtration, washed with water (3×150 ml.), and dried (over phosphorus pentoxide) to give 3-(3-trifluoromethylphenyl)-6-n-butylamino-tetrahydro-1,3,5-triazine-2,4-dione (6.0 g., 95%), m.p. 245°-247° C.

reactant | n-Butylamine | 3.92 ml | C(CCC)N | C4H11N
reactant | 3-(3-trifluoromethylphenyl)-6-methylthio-tetrahydro-1,3,5-triazine-2,4-dione | 6.1 g | FC(C=1C=C(C=CC1)N1C(NC(NC1=O)SC)=O)(F)F | C11H10F3N3O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.4 ml | C(C)(=O)O | C2H4O2
product | 3-(3-trifluoromethylphenyl)-6-n-butylamino-tetrahydro-1,3,5-triazine-2,4-dione | 6.0 g, 95% | FC(C=1C=C(C=CC1)N1C(NC(NC1=O)NCCCC)=O)(F)F | C14H17F3N4O2
